US07977372B2
3-(4-Bromo-2-fluoro-phenyl)-acrylic acid
A mixture of 4-bromo-2-fluorobenzaldehyde (12.4 g, 61 mmol), malonic acid (12.7 g, 122 mmol) and 4-dimethylamino pyridine (0.75 g, 6.1 mmol) in 20 mL of DMF was heated at 100 degrees Celsius for 2 hrs. After cooling, the reaction mixture was diluted with 300 mL water, and filtered. The solid was collected, and triturated in hexane. The solid was collected and dried in vacuum to give 12.7 g (85%) of a white solid. MS: calc'd 243 (M−H), exp 243 (M−H).

reactant | 4-bromo-2-fluorobenzaldehyde | 61 mmol, 12.4 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | malonic acid | 122 mmol, 12.7 g | C(CC(=O)O)(=O)O | C3H4O4
catalyst | 4-dimethylamino pyridine | 6.1 mmol, 0.75 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | 3-(4-Bromo-2-fluoro-phenyl)-acrylic acid | 12.7 g, 85% | BrC1=CC(=C(C=C1)C=CC(=O)O)F | C9H6BrFO2
